US05892131
Preparation of 4-(p-Chlorophenyl)-2-fluoro-1-(4-fluoro-3-phenoxyphenyl)-4-methyl-2-pentene, (Z)-
Under a nitrogen atmosphere, a mixture of 1-bromo-4-(p-chlorophenyl)-2-fluoro-4-methyl-2-pentene, (Z)- (320.8 mg, 1.1 mmol), bis(dibenzylideneacetone)palladium(0) (Pd(dba)2, 31.6 mg, 0.055 mmol) in toluene (8 mL) is treated with potassium carbonate (608 mg, 4.4 mmol), degassed, treated with a solution of 4-fluoro-3-phenoxybenzeneboronic acid (331.8 mg, 1.43 mmol) in ethanol (2 mL), refluxed for 45 minutes, cooled to room temperature, and filtered through diatomaceous earth. The filtrate is diluted with ethyl acetate, and the resultant solution is washed sequentially with water and brine, dried over anhydrous sodium sulfate, and concentrated in vacuo to obtain a residue. Flash column chromatography of the residue using silica gel and a 1:9 ethyl acetate/hexanes solution gives the title product as a colorless liquid (401 mg, 91% yield) which is identified by NMR spectral analyses.

reactant | 1-bromo-4-(p-chlorophenyl)-2-fluoro-4-methyl-2-pentene | BrCC(=CC(C)(C)C1=CC=C(C=C1)Cl)F | C12H13BrClF
reactant | potassium carbonate | 4.4 mmol, 608 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-fluoro-3-phenoxybenzeneboronic acid | 1.43 mmol, 331.8 mg | FC1=C(C=C(C=C1)B(O)O)OC1=CC=CC=C1 | C12H10BFO3
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 2 mL | C(C)O | C2H6O
catalyst | bis(dibenzylideneacetone)palladium(0) | 0.055 mmol, 31.6 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | 4-(p-Chlorophenyl)-2-fluoro-1-(4-fluoro-3-phenoxyphenyl)-4-methyl-2-pentene | 401 mg, 91% yield | ClC1=CC=C(C=C1)C(C=C(CC1=CC(=C(C=C1)F)OC1=CC=CC=C1)F)(C)C | C24H21ClF2O
